US07091214B2
A solution of 2-[5-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)pentyl]isothiourea hydrochloride (1.49 g, 3.16 mmol) in 7 M hydrochloric acid (8 mL) was cooled to 0° C. A solution of sodium chlorate (0.44 g, 4.1 mmol) in water (1.0 mL) was added dropwise with stirring, and the reaction was stirred at 0° C. for one hour. A precipitate formed and was isolated by filtration, washed with ice-cold water (4×4 mL), and dried under high vacuum to provide 0.92 g of 5-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)pentane-1-sulfonyl chloride as a yellow solid.

reactant | 2-[5-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)pentyl]isothiourea hydrochloride | 3.16 mmol, 1.49 g | Cl.BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCCSC(N)=N)COCC
reactant | sodium chlorate | 4.1 mmol, 0.44 g | Cl(=O)(=O)[O-].[Na+]
reactant | water | 1.0 mL | O | H2O
solvent | hydrochloric acid | 7 M, 8 mL | Cl | ClH
product | 5-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)pentane-1-sulfonyl chloride | 0.92 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCCS(=O)(=O)Cl)COCC | C18H21BrClN3O3S
